US04999377
A mixture of phenylglycidyl ether (8.0 g), N-benzyltyramine hydrochloride (13.0 g) and triethylamine (7.5 ml) in isopropanol (200 ml) was heated to reflux for 3hours. The solvent was evaporated and toluene was added to the residue. Volatile material was evaporated. The residue was purified by chromatography on K60 silica (300 g) using a gradient mixture of methanol in dichloromethane (1 to 2% methanol). Thus was obtained 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenol (16.5 g) as an oil which slowly crystallised, m.p. 103°-5° C.: NMR: 2.55-2.85[m,6H, CHCH2NHCH2CH2 ]; 3.65-4.05 [m,5H, PhOCH2CHOH +PhCH2 ]; 6.65-7.4[m,14H, aromatic H].

reactant | phenylglycidyl ether | 8.0 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | N-benzyltyramine hydrochloride | 13.0 g | Cl.C(C1=CC=CC=C1)NCCC1=CC=C(C=C1)O
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 4-[2-(N-benzyl-N-(2-hydroxy-3-phenoxypropyl)amino)ethyl]phenol | 16.5 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=C1)O)CCC1=CC=C(C=C1)O | C24H27NO3
